US07314937B2
6-(3-Piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride:
To a round-bottom flask, equipped with stir bar and septum, is placed 6-(3-piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1 g, 2.6 mmol), DCM (20 mL) and 4M HCl/dioxane (5 mL). The reaction is allowed to stir at room temperature for 3 h. After this time, the reaction is concentrated, dissolved in MeOH and concentrated again affording 6-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride as a white solid (800 mg, 87%). Mass spec hit M+1, 275; LCMS>95% @ 230 nm and ELSD.

reactant | 6-(3-piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.6 mmol, 1 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OCCCN1CCCCC1 | C22H34N2O3
reactant | HCl dioxane | 4M, 5 mL | Cl.O1CCOCC1
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-Piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC=1C=C2CCNCC2=CC1 | InChI=1S/C17H26N2O.2ClH/c1-2-9-19(10-3-1)11-4-12-20-17-6-5-16-14-18-8-7-15(16)13-17;;/h5-6,13,18H,1-4,7-12,14H2;2*1H
